US06350749B1
A mixture of 5-phenylcyclohexane-1,3-dione (4.0 g), 4-aminobutan-2-ol (2.5 g), molecular sieves 4A (24 g) and tetrahydrofuran (60 ml) was refluxed for 13 hours and cooled, and insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in dimethylformamide (100 ml). To the solution were 2-bromomesitylene(4.2 g), tetrakistriphenylphosphine palladium (0.6 g) and potassium carbonate (5.9 g), and the mixture was stirred at 150° C. for 5 hours and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was washed with sodium hydrogen carbonate solution, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane) to give colorless crystals of 3-ethyl-6-phenyl-4,5,6,7-tetrahydroindol-4-one (2.6 g).

reactant | 5-phenylcyclohexane-1,3-dione | 4.0 g | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | 4-aminobutan-2-ol | 2.5 g | NCCC(C)O | C4H11NO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-ethyl-6-phenyl-4,5,6,7-tetrahydroindol-4-one | 2.6 g | C(C)C1=CNC=2CC(CC(C12)=O)C1=CC=CC=C1 | C16H17NO
